US08975415B2
To a solution of 2-fluoro-6-iodobenzonitrile (1560 mg, 6.32 mmol) in THF (16 mL) at −78° C. was added n-butyllithium (2.64M solution in n-hexane, 2.39 ml, 6.32 mmol) dropwise. The mixture was stirred for 0.5 hour at −78° C. and to the solution was added a solution of N-(6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-ylidene)-2-methylpropane-2-sulfinamide (1500 mg, 4.21 mmol) in THF (5 mL). The mixture was stirred for 1 hour at −78° C. and overnight at room temperature. To the mixture was added saturated aqueous NH4Cl. The mixture was extracted with EtOAc and the organic layer was concentrated in vacuo. The residue was purified by silica gel chromatography(hexane/AcOEt=100:0-0:100, then CHCl3:MeOH=85:15) to give 6′-bromo-4″-fluorodispiro[cyclopropane-1,3′-chromene-4′,1″-isoindol]-3″-amine (469 mg).

reactant | 2-fluoro-6-iodobenzonitrile | 6.32 mmol, 1560 mg | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | n-butyllithium | 6.32 mmol, 2.64M, 2.39 ml | C(CCC)[Li]
reactant | N-(6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-ylidene)-2-methylpropane-2-sulfinamide | 4.21 mmol, 1500 mg | BrC=1C=C2C(C3(CC3)COC2=CC1)=NS(=O)C(C)(C)C | C15H18BrNO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6′-bromo-4″-fluorodispiro[cyclopropane-1,3′-chromene-4′,1″-isoindol]-3″-amine | 469 mg | BrC=1C=C2C(=CC1)OCC1(CC1)C21N=C(C2=C(C=CC=C12)F)N | C18H14BrFN2O
